US08609675B2
To 3-(quinolin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)-5-vinylpyrazolo[1,5-a]pyrimidin-7-amine (Int-8a, 0.7 g, 1.3 mmol) in 1,4-dioxane (10 mL) was added 2.5 wt % OsO4 in 1,4-dioxane (1.0 g, 0.02 mmol), 2,6-lutidine (0.6 mL, 5.2 mmol) and H2O (2 mL), and the resulting mixture was stirred at room temperature for 20 minutes. NaIO4 (0.8 g, 3.81 mmol) was then added and the reaction mixture was stirred at room temperature for 16 hours. L C/MS analysis at that time showed the diol intermediate was still present. Therefore, more NaIO4 (0.3 g, 1.3 mmol) was added, and the reaction mixture was stirred for 12 hours for full conversion to the product. Saturated Na2S2O3 solution (10 mL) was added and the mixture was stirred for 10 minutes. The organics were then extracted with CH2Cl2 (4×40 mL), dried (Na2SO4) and concentrated in vacuo to give 7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidine-5-carbaldehyde (Int-8b) as a yellow solid (0.6 g, 1.2 mmol, 92%). LCMS: 2.67 mins, m/z=550.0 (MH+).

reactant | 3-(quinolin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)-5-vinylpyrazolo[1,5-a]pyrimidin-7-amine | 1.3 mmol, 0.7 g | N1=CC(=CC2=CC=CC=C12)C=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C=C | C29H41N5O2Si2
reactant | 2,6-lutidine | 5.2 mmol, 0.6 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | H2O | 2 mL | O | H2O
reactant | Na2S2O3 | 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | OsO4 | O=[Os](=O)(=O)=O
solvent | 1,4-dioxane | 0.02 mmol, 1.0 g | O1CCOCC1 | C4H8O2
product | 7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidine-5-carbaldehyde | 1.2 mmol, 0.6 g, 92% | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC1=CC=CC=C1C2)C=O)COCC[Si](C)(C)C)(C)C | C28H39N5O3Si2
